US07713994B2
tert-Butyl 4-(4-{[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}phenyl)piperazine-1-carboxylate
A N,N-dimethylformamide solution (2.2 mL) of 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (280 mg, 0.99 mmol), and tert-butyl 4-(4-aminophenyl)piperazine-1-carboxylate (300 mg, 1.08 mmol) is heated at 90° C. for 0.5 h. After cooling in the refrigerator, the precipitate is collected, and washed with N,N-dimethylformamide and ether to give 222 mg (42%) of the title compound as a yellow solid. MS (ESI) m/z 527.529 (M+H)+1

reactant | 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.99 mmol, 280 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | tert-butyl 4-(4-aminophenyl)piperazine-1-carboxylate | 1.08 mmol, 300 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
solvent | N,N-dimethylformamide | 2.2 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(4-{[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}phenyl)piperazine-1-carboxylate | 222 mg, 42% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C25H27BrN4O4
